### PR TITLE
[Merged by Bors] - feat: add normalizedFactorsMapEquivNormalizedFactorsMinPolyMk_symm_apply_eq_span

### PR DESCRIPTION
**Pull request by riccardobrasca**
We add `normalizedFactorsMapEquivNormalizedFactorsMinPolyMk_symm_apply_eq_span`, that explicitely describes the image, via the Kummer Dedekind correspondence, of a factor of the minimal polynomial of the generator.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/KummerDedekind.lean [hunk 1]
```diff
@@ -229,6 +230,27 @@ variable [NoZeroSMulDivisors R S]
...
+    (f hx hx').symm (Q.map (Ideal.Quotient.mk I)) = Q.aeval x := by
+    apply (f hx hx').injective
+    rw [f, AlgEquiv.toRingEquiv_eq_coe, RingEquiv.symm_trans_apply, RingEquiv.symm_symm,
+      RingEquiv.coe_trans, Function.comp_apply, RingEquiv.symm_apply_apply,
+      RingEquiv.symm_trans_apply, quotEquivOfEq_symm, quotEquivOfEq_mk]
+    congr
+    convert (adjoin.powerBasis' hx').quotientEquivQuotientMinpolyMap_symm_apply_mk I Q
+    apply (quotAdjoinEquivQuotMap hx
+      (NoZeroSMulDivisors.algebraMap_injective ((adjoin R {x})) S)).injective
+    simp
```
Comment (Paul-Lez) [inline Mathlib/NumberTheory/KummerDedekind.lean:252]: Would it be worth squeezing the `simp` here?

**Comment by Paul-Lez** [comment]
LGTM!

File: Mathlib/NumberTheory/KummerDedekind.lean [hunk 2]
```diff
@@ -30,17 +30,18 @@ with a formula).
  * `Ideal.irreducible_map_of_irreducible_minpoly` : `I.map (algebraMap R S)` is irreducible if
     `(map (Ideal.Quotient.mk I) (minpoly R pb.gen))` is irreducible, where `pb` is a power basis
     of `S` over `R`.
+  * `normalizedFactorsMapEquivNormalizedFactorsMinPolyMk_symm_apply_eq_span` : Let `Q` be a lift of
+    factor of the minimal polynomial of a `x` generator of `S` over `R`, taken
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/KummerDedekind.lean:34]: "of `x`, a generator of `S` over `R`" sounds better

File: Mathlib/NumberTheory/KummerDedekind.lean [hunk 3]
```diff
@@ -343,4 +357,29 @@ theorem Ideal.irreducible_map_of_irreducible_minpoly (hI : IsMaximal I) (hI' : I
   rw [Multiset.attach_map_val, Multiset.map_singleton, Subtype.coe_mk]
   exact normalizedFactors_irreducible hf
 
+open Set Classical in
+/-- Let `Q` be a lift of factor of the minimal polynomial of `x`, a generator of `S` over `R`, taken
+`mod I`. Then (the reduction of) `Q` corresponds via
+`normalizedFactorsMapEquivNormalizedFactorsMinPolyMk` to
+`span (I.map (algebraMap R S) ∪ {Q.aeval x})`.  -/
+theorem normalizedFactorsMapEquivNormalizedFactorsMinPolyMk_symm_apply_eq_span
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/KummerDedekind.lean:365]: Is this the longest name in mathlib?

**Review by Ruben-VandeVelde — APPROVED** [review]

File: Mathlib/NumberTheory/KummerDedekind.lean (hunk 3 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/KummerDedekind.lean:365]: I can change it to `normalizedFactorsMapEquivNormalizedFactorsMinPolyMk_symm_apply`, but to make it shorter we need to change the name of `normalizedFactorsMapEquivNormalizedFactorsMinPolyMk` (happy to do it if you have a suggestion)

File: Mathlib/NumberTheory/KummerDedekind.lean [hunk 4]
```diff
@@ -229,6 +230,28 @@ variable [NoZeroSMulDivisors R S]
 
 attribute [local instance] Ideal.Quotient.field
 
+private noncomputable def f (hx : (conductor R x).comap (algebraMap R S) ⊔ I = ⊤)
+    (hx' : IsIntegral R x) : S ⧸ I.map (algebraMap R S) ≃+*
+    (R ⧸ I)[X] ⧸ span {(minpoly R x).map (Ideal.Quotient.mk I)} :=
+    (quotAdjoinEquivQuotMap hx (NoZeroSMulDivisors.algebraMap_injective
+    (Algebra.adjoin R {x}) S)).symm.trans
+    (((Algebra.adjoin.powerBasis' hx').quotientEquivQuotientMinpolyMap I).toRingEquiv.trans
+    (quotEquivOfEq (by rw [Algebra.adjoin.powerBasis'_minpoly_gen hx'])))
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/KummerDedekind.lean:239]:
```suggestion
    (hx' : IsIntegral R x) :
    S ⧸ I.map (algebraMap R S) ≃+* (R ⧸ I)[X] ⧸ span {(minpoly R x).map (Ideal.Quotient.mk I)} :=
  (quotAdjoinEquivQuotMap hx (NoZeroSMulDivisors.algebraMap_injective
    (Algebra.adjoin R {x}) S)).symm.trans <|
    ((Algebra.adjoin.powerBasis' hx').quotientEquivQuotientMinpolyMap I).toRingEquiv.trans <|
    quotEquivOfEq (by rw [Algebra.adjoin.powerBasis'_minpoly_gen hx'])
```
This should improve readability a bit.

File: Mathlib/NumberTheory/KummerDedekind.lean [hunk 5]
```diff
@@ -229,6 +230,28 @@ variable [NoZeroSMulDivisors R S]
...
+    apply (f hx hx').injective
+    rw [f, AlgEquiv.toRingEquiv_eq_coe, RingEquiv.symm_trans_apply, RingEquiv.symm_symm,
+      RingEquiv.coe_trans, Function.comp_apply, RingEquiv.symm_apply_apply,
+      RingEquiv.symm_trans_apply, quotEquivOfEq_symm, quotEquivOfEq_mk]
+    congr
+    convert (adjoin.powerBasis' hx').quotientEquivQuotientMinpolyMap_symm_apply_mk I Q
+    apply (quotAdjoinEquivQuotMap hx
+      (NoZeroSMulDivisors.algebraMap_injective ((adjoin R {x})) S)).injective
+    simp only [RingEquiv.apply_symm_apply, adjoin.powerBasis'_gen, quotAdjoinEquivQuotMap_apply_mk,
+      coe_aeval_mk_apply]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/KummerDedekind.lean:253]:
```suggestion
  apply (f hx hx').injective
  rw [f, AlgEquiv.toRingEquiv_eq_coe, RingEquiv.symm_trans_apply, RingEquiv.symm_symm,
    RingEquiv.coe_trans, Function.comp_apply, RingEquiv.symm_apply_apply,
    RingEquiv.symm_trans_apply, quotEquivOfEq_symm, quotEquivOfEq_mk]
  congr
  convert (adjoin.powerBasis' hx').quotientEquivQuotientMinpolyMap_symm_apply_mk I Q
  apply (quotAdjoinEquivQuotMap hx
    (NoZeroSMulDivisors.algebraMap_injective ((adjoin R {x})) S)).injective
  simp only [RingEquiv.apply_symm_apply, adjoin.powerBasis'_gen, quotAdjoinEquivQuotMap_apply_mk,
    coe_aeval_mk_apply]
```
(defining terms/proofs are indented by 2, not 4)

File: Mathlib/NumberTheory/KummerDedekind.lean [hunk 6]
```diff
@@ -343,4 +357,29 @@ theorem Ideal.irreducible_map_of_irreducible_minpoly (hI : IsMaximal I) (hI' : I
...
   exact normalizedFactors_irreducible hf
 
+open Set Classical in
+/-- Let `Q` be a lift of factor of the minimal polynomial of `x`, a generator of `S` over `R`, taken
+`mod I`. Then (the reduction of) `Q` corresponds via
+`normalizedFactorsMapEquivNormalizedFactorsMinPolyMk` to
+`span (I.map (algebraMap R S) ∪ {Q.aeval x})`.  -/
+theorem normalizedFactorsMapEquivNormalizedFactorsMinPolyMk_symm_apply_eq_span
+    (hI : I.IsMaximal) {Q : R[X]}
+    (hQ : Q.map (Ideal.Quotient.mk I) ∈ normalizedFactors ((minpoly R x).map (Ideal.Quotient.mk I)))
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/KummerDedekind.lean:367]: Maybe use `I.Quotient.mk` instead of `Ideal.Quotient.mk I`?

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/KummerDedekind.lean:367]: It doesn't work :frowning: ...

File: Mathlib/NumberTheory/KummerDedekind.lean [hunk 7]
```diff
@@ -343,4 +357,29 @@ theorem Ideal.irreducible_map_of_irreducible_minpoly (hI : IsMaximal I) (hI' : I
...
+    (hI' : I ≠ ⊥) (hx : (conductor R x).comap (algebraMap R S) ⊔ I = ⊤) (hx' : IsIntegral R x) :
+    ((normalizedFactorsMapEquivNormalizedFactorsMinPolyMk hI hI' hx hx').symm ⟨_, hQ⟩).1 =
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/KummerDedekind.lean:369]:
```suggestion
    ((normalizedFactorsMapEquivNormalizedFactorsMinPolyMk hI hI' hx hx').symm ⟨_, hQ⟩).val =
```
Maybe clearer to use the name than the number.

File: Mathlib/NumberTheory/KummerDedekind.lean [hunk 8]
```diff
@@ -343,4 +357,29 @@ theorem Ideal.irreducible_map_of_irreducible_minpoly (hI : IsMaximal I) (hI' : I
...
+    span (I.map (algebraMap R S) ∪ {Q.aeval x}) := by
+  dsimp [normalizedFactorsMapEquivNormalizedFactorsMinPolyMk,
+    normalizedFactorsEquivSpanNormalizedFactors]
+  rw [normalizedFactorsEquivOfQuotEquiv_symm]
+  dsimp [normalizedFactorsEquivOfQuotEquiv, idealFactorsEquivOfQuotEquiv, OrderIso.ofHomInv]
+  simp only [map_span, image_singleton, map_span, coe_coe, image_singleton, f_symm_aux hx hx' Q]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/KummerDedekind.lean:375]:
```suggestion
  simp only [map_span, image_singleton, coe_coe,f_symm_aux hx hx' Q]
```
There is unnecessary repetition in the list of lemmas.

File: Mathlib/NumberTheory/KummerDedekind.lean [hunk 9]
```diff
@@ -343,4 +357,29 @@ theorem Ideal.irreducible_map_of_irreducible_minpoly (hI : IsMaximal I) (hI' : I
...
+  refine le_antisymm (fun a ha ↦ ?_) (span_le.2 <| union_subset_iff.2 <|
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/KummerDedekind.lean:376]:
```suggestion
  refine le_antisymm (fun a ha ↦ ?_) (span_le.mpr <| union_subset_iff.mpr <|
```
See above.

**Review by MichaelStollBayreuth — APPROVED** [review]
Modulo a few minor stylistic nits, LGTM.

**Comment by MichaelStollBayreuth** [comment]
maintainer merge

**Comment by kbuzzard** [comment]
bors merge
